US08252781B2
Preparation of 1-[(4-methylphenyl)sulfonyl]-2-(adamantan-2-yl)-1,2-diazetidin-3-one
A solution of 2-(adamantan-2-yl)-1,2-diazetidin-3-one (5.00 mg, 0.0240 mmol)prepared in Process 5 of Example 1 in dichloromethane (1 mL) was added with diisopropylethylamine (9.30 mg, 0.0720 mmol) and p-toluenesulfonyl chloride (6.80 mg, 0.0360 mmol) at room temperature, and the resultant was stirred at the same temperature for 12 hours. The reaction solution was added with water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using Preparative Thin-Layer chromatography (hexane:ethyl acetate=2:1), and the title compound (7.40 mg, 83.3%) was obtained as a white crystalline powder.

reactant | 2-(adamantan-2-yl)-1,2-diazetidin-3-one | 0.0240 mmol, 5.00 mg | C12C(C3CC(CC(C1)C3)C2)N2NCC2=O | C12H18N2O
reactant | diisopropylethylamine | 0.0720 mmol, 9.30 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonyl chloride | 0.0360 mmol, 6.80 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-[(4-methylphenyl)sulfonyl]-2-(adamantan-2-yl)-1,2-diazetidin-3-one | 7.40 mg, 83.3% | CC1=CC=C(C=C1)S(=O)(=O)N1N(C(C1)=O)C1C2CC3CC(CC1C3)C2 | C19H24N2O3S
